US07718668B2
(2R,4aR,10bR)-6-(2-Dimethylamino-pyrimidin-5-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol 2-oxoglutarate
(2R,4aR,10bR)-6-(2-Dimethylamino-pyrimidin-5-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol (39.4 mg, 0.1 mmol) are dissolved in 1.0 ml of dichloromethane. 16.1 mg (0.11 mmol) of 2-oxo-pentanedioic acid (dissolved in 0.5 ml of acetone) are added. The crystals are filtered off and dried to obtain 30.9 mg (57%) of the title compound (m. p.: 112° C.).

reactant | (2R,4aR,10bR)-6-(2-Dimethylamino-pyrimidin-5-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol | 0.1 mmol, 39.4 mg | CN(C1=NC=C(C=N1)C1=N[C@@H]2CC[C@H](C[C@@H]2C2=CC(=C(C=C12)OC)OCC)O)C | C22H28N4O3
reactant | 2-oxo-pentanedioic acid | 0.11 mmol, 0.5 ml, 16.1 mg | O=C(C(=O)O)CCC(=O)O | C5H6O5
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
product | (2R,4aR,10bR)-6-(2-Dimethylamino-pyrimidin-5-yl)-9-ethoxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-2-ol 2-oxoglutarate | 30.9 mg, 57% | O=C(C(=O)O[C@H]1C[C@@H]2C3=CC(=C(C=C3C(=N[C@@H]2CC1)C=1C=NC(=NC1)N(C)C)OC)OCC)CCC(=O)O | C27H32N4O7
